US07951950B2
A round bottom flask with magnetic stirrer was charged with cis-1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid methyl ester (3.00 g, 8.8 mmol) in anhydrous tetrahydrofuran (70 mL). To the reaction was added a solution of lithium hydroxide (423 mg, 18 mmol) in water (24 mL), followed by methanol (24 mL). The reaction was stirred at room temperature for 18-20 hours under an argon atmosphere. The reaction was transferred to a separatory funnel and the pH adjusted to 2 via addition of 1N hydrochloric acid. The mixture was extracted with ethyl acetate (3×35 mL) and the combined extractions were washed with brine (1×50 mL), dried over magnesium sulfate, and filtered. The filtrate was concentrated in vacuo and diethyl ether (50 mL) added to the resulting residue. The precipitated solid was collected via suction filtration to afford 1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid as a mixture of cis and trans-isomers (2.71 g, 95%). 1H-NMR (d6-DMSO) δ: 1.22 (d, 3H), 1.63 (ddd, 1H), 2.94 (ddd, 1H), 3.76 (s, 3H), 3.89 (dd, 1H), 4.83-4.91 (m, 1H), 6.51 (d, 1H), 6.72-6.76 (m, 2H), 6.95 (ddd, 1H), 7.11 (ddd, 1H), 7.26-7.35 (m, 3H). MS m/z=326 (M+1).

reactant | cis-1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid methyl ester | 8.8 mmol, 3.00 g | COC(=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C20H21NO4
reactant | lithium hydroxide | 18 mmol, 423 mg | [OH-].[Li+]
reactant | methanol | 24 mL | CO | CH4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | water | 24 mL | O | H2O
product | 1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid | COC1=CC=C(C(=O)N2C(CC(C3=CC=CC=C23)C(=O)O)C)C=C1 | C19H19NO4
